US08222416B2
A solution of N,N-dimethyl-3-(3-methyl-1-(1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-2-yl)but-1-enyl)benzenamine (3.0 g, 6.7 mmol) in ethanol (60 mL) and tetrahydrofuran (120 mL) was treated with an aqueous sodium hydroxide solution (10%, 23 mL). The reaction was stirred at 70° C. for 18 h. At this time, the reaction was cooled to 25° C., diluted with water (200 mL) and then extracted with ethyl acetate (2×100 mL). The organic extracts were dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. Silica gel column chromatography (50 g, petroleum ether/ethyl acetate 10:1) afforded N,N-dimethyl-3-(3-methyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)but-1-enyl)benzenamine (1.6 g, 76%) as a white solid: 1H NMR (300 MHz, CDCl3) δ ppm 8.46 (dd, 1H, J1=4.8 Hz, J2=1.8 Hz), 7.86 (dd, 1H, J1=7.8 Hz, J2=1.8 Hz), 7.65 (d, 2H, J=7.8 Hz), 7.37 (d, 1H, J=7.5 Hz), 7.24-7.15 (m, 2H), 6.51 (s, 1H), 6.13 (d, 1H, J=10.2 Hz), 2.78 (s, 6H), 2.71-2.64 (m, 1H), 1.28 (s, 3H), 1.25 (s, 3H).

reactant | N,N-dimethyl-3-(3-methyl-1-(1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine-2-yl)but-1-enyl)benzenamine | 6.7 mmol, 3.0 g | CN(C1=CC(=CC=C1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=CC=C1)C | C26H27N3O2S
reactant | sodium hydroxide | 23 mL | [OH-].[Na+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | N,N-dimethyl-3-(3-methyl-1-(1H-pyrrolo[2,3-b]pyridin-2-yl)but-1-enyl)benzenamine | 1.6 g, 76% | CN(C1=CC(=CC=C1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1)C | C20H23N3
